### PR TITLE
[Merged by Bors] - chore(LinearAlgebra): process misc porting notes

### PR DESCRIPTION
**Pull request by jcommelin**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean [hunk 1]
```diff
@@ -197,16 +197,15 @@ theorem induction {C : CliffordAlgebra Q → Prop}
...
     simp [of]
     -- porting note: `simp` should fire with the following lemma automatically
     have := LinearMap.codRestrict_apply s.toSubmodule (CliffordAlgebra.ι Q) x (h := ι)
     exact this
   -- finding a proof is finding an element of the subalgebra
-  -- Porting note: was `convert Subtype.prop (lift Q of a); exact AlgHom.congr_fun of_id a`
-  rw [← AlgHom.id_apply (R := R) a, of_id]
-  exact Subtype.prop (lift Q of a)
+  rw [← AlgHom.id_apply (R := R) a, ← of_id]
+  exact (lift Q of a).prop
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/CliffordAlgebra/Basic.lean:208]: I find this proof better than one using `convert`.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 2]
```diff
@@ -51,9 +51,6 @@ variable {n : Type u} [DecidableEq n] [Fintype n] {R : Type v} [CommRing R]
 
 section CoeFnInstance
 
--- Porting note: this instance was not the simp-normal form in mathlib3 but it is fine in mathlib4
--- because coercions get unfolded.
-/-- This instance is here for convenience, but is not the simp-normal form. -/
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:56]: I tried with `import Mathlib`. This is in fact normal form.

File: Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean [hunk 3]
```diff
@@ -112,17 +109,12 @@ theorem coe_inv : ↑A⁻¹ = (↑A : Matrix n n R)⁻¹ :=
 
 @[deprecated (since := "2024-11-26")] alias toLinear := toLin
 
--- Note that without the `@` and `‹_›`, Lean infers `fun a b ↦ _inst a b` instead of `_inst` as the
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/GeneralLinearGroup/Defs.lean:115]: The claim in this note is no longer true. Elaboration is now clean.

**Review by j-loreaux — APPROVED** [review]
Thanks!

bors merge
